US06465467B1
Step 1: 3-Chloro-4-(1-piperazinyl)-1,2,5-thiadiazole, Hydrochloride.
A mixture of 3,4-dichloro-1,2,5-thiadiazole (4.00 g, 25.8 mmol) and piperazine hexahydrate (25.0 g, 130 mmol) in DMF (25 mL) was heated at 70° C. for 20 minutes. After cooling to ambient temperature, the reaction mixture was basified (11M NaOH) and brine was added. The resulting mixture was extracted with CHCl3 (×3). The combined organic phases were washed twice with brine/water (1:1), dried (MgSO4) and the solvent was evaporated. The resulting oil was purified by column chromatography on silica gel using CHCl3 as eluent to give 2.77 g (52%) of the title compound as a colourless oil which was converted to its hydrochloride salt: mp 231° C. (dec). Anal. (C6H9ClN4S.HCl), C calc 29.89, found 30.4, H, N.

reactant | 3,4-dichloro-1,2,5-thiadiazole | 25.8 mmol, 4.00 g | ClC1=NSN=C1Cl | C2Cl2N2S
reactant | piperazine hexahydrate | 130 mmol, 25.0 g | O.O.O.O.O.O.N1CCNCC1
reactant | NaOH | 11M | [OH-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3-Chloro-4-(1-piperazinyl)-1,2,5-thiadiazole, Hydrochloride | 2.77 g, 52% | Cl.ClC1=NSN=C1N1CCNCC1 | InChI=1S/C6H9ClN4S.ClH/c7-5-6(10-12-9-5)11-3-1-8-2-4-11;/h8H,1-4H2;1H
